US05210276
a) 2-tertbutoxycarbonylaminomethyl-7-trifluoromethanesulfonyloxy-tetraline
A mixture of 2-tertbutoxycarbonylaminomethyl-7-hydroxytetraline (15.9 g, 0.071 mol) described in step (i) of Preparation K of EP-A-436,435 and pyridine (45 ml) is cooled to 0°-5° C. under nitrogen atmosphere and trifluoromethanesulfonic anhydride (13 ml, 0.08 mol) is added thereto in 30 minutes. The reaction temperature is allowed to rise to room temperature. After 4 hours the reaction mixture is poured into a mixture of ice/diluted HCl and the slightly acidic mixture is extracted with ethyl acetate.

reactant | 2-tertbutoxycarbonylaminomethyl-7-hydroxytetraline | 0.071 mol, 15.9 g | C(C)(C)(C)OC(=O)NCC1CC2=CC(=CC=C2CC1)O | C16H23NO3
reactant | trifluoromethanesulfonic anhydride | 0.08 mol, 13 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
product | 2-tertbutoxycarbonylaminomethyl-7-trifluoromethanesulfonyloxy-tetraline | C(C)(C)(C)OC(=O)NCC1CC2=CC(=CC=C2CC1)OS(=O)(=O)C(F)(F)F | C17H22F3NO5S
